US07781436B2
[6-Chloro-1-(2-dimethylamino-ethyl)-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone (preparation described herein), with (commercially available) (2-chloro-ethyl)-dimethyl-amine gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C19H17ClFN3O
reactant | (2-chloro-ethyl)-dimethyl-amine | ClCCN(C)C | C4H10ClN
product | [6-Chloro-1-(2-dimethylamino-ethyl)-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | ClC1=CC=C2C(=CN(C2=C1)CCN(C)C)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C23H26ClFN4O
